US04309443
N-Formyl-3-(4-acetylphenyl)-1,1-dimethylpropanamine
N-Formyl-3-phenyl-1, 1-dimethylpropanamine (115 g) was dissolved in 1,2-dichloroethane (850 ml) at 0° C. Acetyl bromide (116 ml) was added followed by the portionwise addition of aluminum chloride (263 g) over 0.5 h. At the end of addition the mixture was allowed to warm to room temperature and then refluxed for 1h. The hot solution was poured onto crushed ice (3 Kg) and the mixture extracted with chloroform. The chloroform extracts were washed with water, sodium bicarbonate and dried (MgSO4). Evaporation of the solvent gave an oil of which 25 g was chromatographed on Kieselgel 60 (1 Kg). Elution with 1% methanol-chloroform gave the title compound as an oil (18 g). τ(CDCl3) 8.6 (6H, s) 8.4-7.75 (2H, m), 7.45 (3H, s), 7.5-7.05 (2H, m), 3.0-4.0 (1H, broad), 2.7 (2H, d, J=8 Hz), 2.15 (2H, d, J=8 Hz) 1.2 (1H, d, J=5 Hz).

reactant | N-Formyl-3-phenyl-1, 1-dimethylpropanamine | 115 g | C(=O)NC(CCC1=CC=CC=C1)(C)C | C12H17NO
reactant | Acetyl bromide | 116 ml | C(C)(=O)Br | C2H3BrO
reactant | aluminum chloride | 263 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | 1,2-dichloroethane | 850 ml | ClCCCl | C2H4Cl2
product | N-Formyl-3-(4-acetylphenyl)-1,1-dimethylpropanamine | 18 g | C(=O)NC(CCC1=CC=C(C=C1)C(C)=O)(C)C | C14H19NO2
